US07705025B2
1-{5-[4-((S)-2-Pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-phenyl]-thiophen-2-yl}-ethanone
The title compound is prepared in a manner substantially analogous to Procedure Q starting from 5-Acetyl-2-thiophene boronic acid and 4-(2-Pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-phenyl bromide to give 42 mg (37%). MS (ES+) 383.2

reactant | 5-Acetyl-2-thiophene boronic acid | C(C)(=O)C1=CC=C(S1)B(O)O | C6H7BO3S
reactant | 4-(2-Pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-phenyl bromide | N1(CCCC1)CC1N(CCC1)C(=O)C1=CC=C(C=C1)Br | C16H21BrN2O
product | 1-{5-[4-((S)-2-Pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-phenyl]-thiophen-2-yl}-ethanone | N1(CCCC1)C[C@H]1N(CCC1)C(=O)C1=CC=C(C=C1)C1=CC=C(S1)C(C)=O | C22H26N2O2S
